US04118511
2-(methylamino)-4-phenoxy-1-butanol, described in Example 4, with formic acid, followed by reduction, gives 2-(dimethylamino)-4-phenoxy-1-butanol,

reactant | 2-(methylamino)-4-phenoxy-1-butanol | CNC(CO)CCOC1=CC=CC=C1 | C11H17NO2
reactant | formic acid | C(=O)O | CH2O2
product | 2-(dimethylamino)-4-phenoxy-1-butanol | CN(C(CO)CCOC1=CC=CC=C1)C | C12H19NO2
